US04578381
5 Grams of methyl 3-(4-carboxy-2nitrophenyl)propionate, 8.87 ml of 2.226N-sodium hydroxide methanol solution, 100 ml of methanol and 1 g of 5%-Pd-C (50% in water) were well mixed together and this mixture was catalytically reduced at a normal temperature under a normal pressure. Then the catalyst was removed from the reaction mixture by filtration, and the pH of the filtrate was adjusted to about pH=1 by adding concentrated hydrochloric acid. The precipitated crystals were collected by filtration and recrystallized from methanol to obtain 3.62 g of 7-carboxy-3,4-dihydrocarbostyril in the form of colorless needle-like crystals.

reactant | methyl 3-(4-carboxy-2nitrophenyl)propionate | C(=O)(O)C1=CC(=C(C=C1)CCC(=O)OC)[N+](=O)[O-] | C11H11NO6
reactant | sodium hydroxide methanol | CO.[OH-].[Na+]
catalyst | Pd-C | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 7-carboxy-3,4-dihydrocarbostyril | 3.62 g | C(=O)(O)C1=CC=C2CCC(NC2=C1)=O | C10H9NO3
